US08536187B2
A mixture of (R)-4-(1-(6-(4-fluorophenyl)-4-hydroxypyrido[3,2-d]pyrimidin-2-ylamino)ethyl)benzenesulfonamide (200 mg), BOP (479 mg) and DIEA (314 μl) in THF (10 ml) was stirred at room temperature overnight. The reaction mixture was concentrated and purified by silicon gel column chromatography (eluting with EtOAc/CH2Cl2) to provide (R)-4-(1-(4-(1H-benzo[d][1,2,3]triazol-1-yloxy)-6-(4-fluorophenyl)pyrido[3,2-d]pyrimidin-2-ylamino)ethyl)benzenesulfonamide as a yellow solid.

reactant | (R)-4-(1-(6-(4-fluorophenyl)-4-hydroxypyrido[3,2-d]pyrimidin-2-ylamino)ethyl)benzenesulfonamide | 200 mg | FC1=CC=C(C=C1)C=1C=CC=2N=C(N=C(C2N1)O)N[C@H](C)C1=CC=C(C=C1)S(=O)(=O)N | C21H18FN5O3S
reactant | BOP | 479 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | DIEA | 314 μl | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | (R)-4-(1-(4-(1H-benzo[d][1,2,3]triazol-1-yloxy)-6-(4-fluorophenyl)pyrido[3,2-d]pyrimidin-2-ylamino)ethyl)benzenesulfonamide | N1(N=NC2=C1C=CC=C2)OC=2C1=C(N=C(N2)N[C@H](C)C2=CC=C(C=C2)S(=O)(=O)N)C=CC(=N1)C1=CC=C(C=C1)F | C27H21FN8O3S
